Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Sigmoid volvulus and bowel obstruction
 
Major Surgical or Invasive Procedure:
Decompression with flexible sigmoidoscopy with washing and 
suctioning
 
History of Present Illness:
___ otherwise relatively healthy who presents with 1 week of 
diarrhea and 1 day of distention. Started having nonbloody 
diarrhea 1 week ago and yesterday became "gassy" (meaning he 
could feel his bowels gurgling) and distended. Denies abdominal 
pain, N/V, fevers, chills, night sweats, chest pain, dyspnea,
urinary changes. Went to ___, underwent CT scan with 
diagnosis of sigmoid voluvlus, and transferred to ___ 
for further management. Reports that his last colonoscopy was 
___ years ago and apparently normal.
 
Past Medical History:
PMH: HTN, BPH

PSH: None
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: 98.5, 93, 111/70, 18, 93% RA 
Gen: Well appearing, well nourished, in no distress. A & OX3
Neck: Supple, without lesions, bruits, or adenopathy.
Chest: Clear to auscultation and percussion
Heart: Regular rate and rhythm, no murmur or gallop 
Abdomen: Bowel sounds normal, soft, nontender, moderate 
abdominal distension.
Extremities: Varicose veins. No amputations or deformities, 
cyanosis, or edema, peripheral pulses intact.
 
Pertinent Results:
___: Abodmen (Supine & Erect): Large bowel obstruction 
secondary to sigmoid volvulus
 
Brief Hospital Course:
Mr. ___ is a ___ Male who was admitted to the ___ 
service at ___ on ___ for sigmoid volvulus 
evidenced on CT scan leading to small bowel obstruction. GI was 
consulted for decompression. The patient was admitted to ___ 
service for NPO and IV fluids, with likely sigmoid colectomy 
this admission. Mr. ___ was taken to the GI suite and 
decompressed with flexible sigmoidoscopy with washing and 
suctioning by Gastroenterology. No mucosal masses were noted. 
The volvulized segment was extremely dilated and the mucosa 
appeared dusky, but otherwise healthy. Due to the risk of 
recurrence he was recommended surgical management. Mr. ___ 
was counseled for a sigmoid colectomy following his volvulus but 
declined. The current plan was to continue to monitor his 
abdominal exam which was now much softer but still distended, 
serial KUBs, as well as surgical intervention in case of 
recurrence. On ___, symptoms were drastically 
improved and the patient was discharged home to continue his 
recovery after tolerating a regular diet and having adequate 
bowel function with instructions to come back to the Emergency 
Department in case of recurrence of any of his previous 
symptoms.
 
Medications on Admission:
1. Amlodipine 5'
2. Citalopram 40'
3. Finasteride 5'
4. Lisinopril 40'', 
5. Lorazepam 0.5''
6. Metoprolol succinate ER 50''
7. Tamsulosin ER 0.4'
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  amLODIPine 5 mg PO DAILY  
3.  Citalopram 40 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID  
5.  Finasteride 5 mg PO DAILY  
6.  Lisinopril 40 mg PO BID  
7.  LORazepam 0.5 mg PO BID:PRN anxiety, insomnia   
8.  Metoprolol Succinate XL 50 mg PO BID  
9.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
10.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sigmoid volvulus with decompression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted due to diarrhea and distension. You had a CT 
of the abdomen and pelvis which showed large bowel obstruction 
secondary to sigmoid volvulus. You underwent decompression of 
your sigmoid volvulus. You were counseled for surgery but you 
wished to decline. You are now doing better, tolerating a 
regular diet and  ready to be discharged to home to continue 
your recovery. We recommend to continue abdominal exam 
monitoring in outpatient clinic and in the unfortunate case of 
recurrence we would recommend surgical management. Please be 
alert of any symptoms similar to the initial presentation, such 
as abdominal pain, distension, and absolute constipation.
  
 MEDICATIONS:
 Take all the medicines you were on before just as you did 
before, unless you have been told differently.
 If you have any questions about what medicine to take or not to 
take, please call your surgeon.

 It was a pleasure being part of your care.

Your ___ team

 
Followup Instructions:
___